US06046232
Synthesis of α-(2-Fluoro-4-ethoxyphenyl)-N-cyclohexylnitrone
The title compound was prepared according to the procedure described in Example 29 using 2-fluoro-4-hydroxybenzonitrile, ethyl iodide and N-cyclohexylhydroxylamine. The title compound was isolated in 58.8% overall yield as slightly yellowish crystals, m.p. 112.7° C. (Rf =0.17 on a silica gel plate using hexanes/ethyl acetate, 4:1, v:v, as the eluant).

reactant | 2-fluoro-4-hydroxybenzonitrile | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | ethyl iodide | C(C)I | C2H5I
reactant | N-cyclohexylhydroxylamine | C1(CCCCC1)NO | C6H13NO
product | α-(2-Fluoro-4-ethoxyphenyl)-N-cyclohexylnitrone | FC1=C(C=CC(=C1)OCC)C=[N+]([O-])C1CCCCC1 | C15H20FNO2
